US08404859B2
Preparation (S)-3-Amino-2-{[3-cyano-5-(3-hydroxy-benzylcarbamoyl)-thiophene-2-carbonyl]-amino}-propionic acid methyl ester hydrochloride
A solution of (S)-3-tert-Butoxycarbonylamino-2-{[3-cyano-5-(3-hydroxy-benzylcarbamoyl)-thiophene-2-carbonyl]-amino}-propionic acid methyl ester (0.033 g, 0.066 mmol)) and 4.0M Hydrogen Chloride in Dioxane (5 mL) was stirred at room temperature 1 h and evaporated to give crude product which was used without further purification.

reactant | (S)-3-tert-Butoxycarbonylamino-2-{[3-cyano-5-(3-hydroxy-benzylcarbamoyl)-thiophene-2-carbonyl]-amino}-propionic acid methyl ester | 0.066 mmol, 0.033 g | COC([C@H](CNC(=O)OC(C)(C)C)NC(=O)C=1SC(=CC1C#N)C(NCC1=CC(=CC=C1)O)=O)=O | C23H26N4O7S
reactant | Hydrogen Chloride | 4.0M | Cl | ClH
solvent | Dioxane | 5 mL | O1CCOCC1 | C4H8O2
product | (S)-3-Amino-2-{[3-cyano-5-(3-hydroxy-benzylcarbamoyl)-thiophene-2-carbonyl]-amino}-propionic acid methyl ester hydrochloride | Cl.COC([C@H](CN)NC(=O)C=1SC(=CC1C#N)C(NCC1=CC(=CC=C1)O)=O)=O | InChI=1S/C18H18N4O5S.ClH/c1-27-18(26)13(8-20)22-17(25)15-11(7-19)6-14(28-15)16(24)21-9-10-3-2-4-12(23)5-10;/h2-6,13,23H,8-9,20H2,1H3,(H,21,24)(H,22,25);1H/t13-;/m0./s1
